US04186135
670 g of chlorosulfonic acid were introduced into a balloon flask provided with a condenser and a thermometer. 173 g of 1,4-benzodioxane-5-carboxylic acid were added in portions with the temperature being maintained at 5°-10° C. The mixture was heated at 55° C. and then cooled and poured into ice. The precipitate was dried off, washed and dried again. 250 g of 7-chlorosulfonyl-1,4-benzodioxane-5-carboxylic acid were obtained (M.P.: 210°-215° C.; yield: 93.5%).

reactant | chlorosulfonic acid | 670 g | ClS(=O)(=O)O | ClHO3S
reactant | 1,4-benzodioxane-5-carboxylic acid | 173 g | O1CCOC2=C1C=CC=C2C(=O)O | C9H8O4
product | 7-chlorosulfonyl-1,4-benzodioxane-5-carboxylic acid | 250 g, yield: 93.5% | ClS(=O)(=O)C=1C=C(C2=C(OCCO2)C1)C(=O)O | C9H7ClO6S
